US04060619
Methyl crotonate (150 g, 1.5 mole) is added over a period of 15 min. to a solution at 5° C of benzenethiol (165 g, 1.5 mole) and triethylamine (10 ml) in ether (500 ml). After standing for 12 hours at room temperature the reaction mixture is distilled to give β-(phenylthio)butyric acid methyl ester as an oil, b.p. 96°-98° C/<1 mm, νmaxCHCl3 1730 cm-1.

reactant | Methyl crotonate | 1.5 mole, 150 g | C(\C=C\C)(=O)OC | C5H8O2
reactant | benzenethiol | 1.5 mole, 165 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 500 ml | CCOCC | C4H10O
product | β-(phenylthio)butyric acid methyl ester | COC(CC(C)SC1=CC=CC=C1)=O | C11H14O2S
